US08349833B2
A mixture of 2-chloro-N-(2,3-dihydro-1,4-benzodioxin-6-yl)acetamide (2 mmol), potassium carbonate (10 mmol), 2-methoxyethylamine (2 mmol) and anhydrous DMF (4 mL) was stirred for 2 hours at 100° C. (monitored by TLC). The mixture was cooled to room temperature, treated with cold water (30 mL). The precipitate was collected by filtration, washed with diethyl ether and dried to afford N-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-2-(2-methoxy-ethylamino)-acetamide (Compound XIa, 96 mg, 36%). 1H NMR (300 MHz, CDCl3/TMS): δ=9.29 (s, 1H), 7.24 (d, 1H, J=2.4 Hz), 6.97 (dd, 1H, J=8.7, 2.4 Hz), 6.78 (d, 1H, J=8.7 Hz), 4.32-4.15 (m, 4H), 3.46 (t, 2H, 4.8 Hz), 3.36 (s, 3H), 3.34 (s, 2H), 2.82 (t, 2H, J=4.8 Hz), 2.17 (s, 1H). 13C NMR (75 MHz, CDCl3/CD3OD/TMS): δ=169.48, 143.16, 139.87, 131.43, 116.84, 112.74, 108.89, 71.41, 64.28, 64.12, 58.68, 52.57, 49.35.

reactant | 2-chloro-N-(2,3-dihydro-1,4-benzodioxin-6-yl)acetamide | 2 mmol | ClCC(=O)NC1=CC2=C(OCCO2)C=C1 | C10H10ClNO3
reactant | potassium carbonate | 10 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methoxyethylamine | 2 mmol | COCCN | C3H9NO
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | N-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-2-(2-methoxy-ethylamino)-acetamide | 96 mg, 36% | O1CCOC2=C1C=CC(=C2)NC(CNCCOC)=O | C13H18N2O4
